datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CN(C)C1=CC=C([CH:20]([H:10])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21"
"C[N:14](C)[C:13]1=[C:12](Br)[CH:11]=[N:10][CH:61]=[CH:62]1.[CH2:20]=[CH:21][C:22]#[N:23]>>C[N+:14](C)=[C:13]1[C:12](Br)=[CH:11][N:10]([CH2:20][CH:21]=[C:22]=[N-:23])[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CC[O:72][C:61]([C:10]([CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62] 10=20
Br[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](Br)[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[NH:61][NH2:10]>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([NH2+:10][NH:61]C)[C:31]1=[O:32] 10=20;20,21=21,22;22,23=23"
C[N:10]1CCCCC1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N+:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)CCCCC1 10=20
"FC1=CC(F)=C([B-:11](C2=C(F)C=C(F)C=C2F)(C2=C(F)C=C(F)C=C2F)[H:10])C(F)=C1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>FC1=CC(F)=C([B:11](C2=C(F)C=C(F)C=C2F)C2=C(F)C=C(F)C=C2F)C(F)=C1.[H:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)=[C:11]([O-:12])[O:82]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2(CC3=CC=C(C#N)C=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([H:10])[CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.[CH-:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82]>>C1=CC=C([N-:21][C:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81]#[N:82])=[N:31]C2=CC=CC=C2)C=C1 10=20;20,21=21"
"C[C:11](=[CH2:10])[O:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)=[O+:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F 10,11=10,20;12=11,12"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>C1=CC=C([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
